US05726165
Benzylphosphinic acid, n-butyl ester
A mixture of ammonium phosphinate (9.18 g) and hexamethyldisilazane (25 mL) was heated at 110° C. for 2 hours. The mixture was cooled in ice, dissolved in dry dichloromethane (120 mL), benzyl chloride (20 g; 14 mL) was added and the mixture allowed to warm to room temperature and stirred 18 hours. The solution was filtered, the solvent evaporated, the residue azeotroped with methanol (2×70 mL), dissolved in toluene (150 mL) containing n-butanol (30 mL) and the solution was boiled under reflux in a Dean and Stark water trap for 5 hours. The solvent was evaporated, the residue slurried with dichloromethane (120 mL), filtered and evaporated and the residue chromatographed on silica-gel in 1-2% methanol in dichloromethane to give the title compound as an oil.

reactant | ammonium phosphinate | 9.18 g | [PH2]([O-])=O.[NH4+]
reactant | hexamethyldisilazane | 25 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | benzyl chloride | 14 mL, 20 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | Benzylphosphinic acid, n-butyl ester | C(C1=CC=CC=C1)P(OCCCC)=O | C11H17O2P
